US06090809
Preparation of 1-[4-(2-methoxyphenyl)piperazin-1-yl]-3-[2,6-dioxopiperidin-1-yl)propane (Compound No. 13)
Scheme-I: A mixture of 2,6-dioxopiperidine (2.60 g, 23.02 mmol), 1-[4-(2-methoxyphenyl)-piperazin-1-yl]-3-chloropropane (6.18 g, 23.02 mmol), potassium carbonate (2.38 g, 17.27 mmol) and tetrabutylammonium bromide (1.48 g, 4.60 mmol) in acetone (80 ml) was refluxed for 16 hours at 80° C. with stirring. The solvent was evaporated off in vacuo and the residue suspended in water (60 ml), extracted with chloroform (3×40 mmol) and the organic layers combined, washed with water (2.40 ml), dried over anhydrous Na2SO4 and evaporated in vacuo to give the title compound. The product was purified by column chromatography over flash silica gel (230-400 mesh) using chloroform-methanol (98:1) as eluent; yield 3.58 g (45%), oil.

reactant | 2,6-dioxopiperidine | 23.02 mmol, 2.60 g | O=C1NC(CCC1)=O | C5H7NO2
reactant | 1-[4-(2-methoxyphenyl)-piperazin-1-yl]-3-chloropropane | 23.02 mmol, 6.18 g | COC1=C(C=CC=C1)N1CCN(CC1)CCCCl | C14H21ClN2O
reactant | potassium carbonate | 17.27 mmol, 2.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroform | 40 mmol | C(Cl)(Cl)Cl | CHCl3
catalyst | tetrabutylammonium bromide | 4.60 mmol, 1.48 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | 1-[4-(2-methoxyphenyl)piperazin-1-yl]-3-[2,6-dioxopiperidin-1-yl)propane | COC1=C(C=CC=C1)N1CCN(CC1)CCCN1C(CCCC1=O)=O | C19H27N3O3
